US07344823B2
3-(Dimethylamino)phenothiazine-5-ium Triiodide
A solution of phenothiazine-5-ium tetraiodide hydrate (0.417 g, 0.57 mmol) in methanol (10 ml) was stirred at room temperature and treated dropwise with a solution of dimethylamine (1.14 mmole) in methanol (2 ml). The mixture was stirred at room temperature for 3 hrs until the starting materials was consumed, as monitored by TLC (silica, CH3OH/TEA). The precipitate was filtered and washed with small amount of methanol, afforded a black solid, 0.30 g (84%).

reactant | phenothiazine-5-ium tetraiodide hydrate | 0.57 mmol, 0.417 g | O.[I-].[I-].[I-].[I-].C1=CC=CC2=[S+]C3=CC=CC=C3N=C12.C1=CC=CC2=[S+]C3=CC=CC=C3N=C12.C1=CC=CC2=[S+]C3=CC=CC=C3N=C12.C1=CC=CC2=[S+]C3=CC=CC=C3N=C12
reactant | dimethylamine | 1.14 mmole | CNC | C2H7N
solvent | methanol | 10 ml | CO | CH4O
solvent | methanol | 2 ml | CO | CH4O
product | 3-(Dimethylamino)phenothiazine-5-ium Triiodide | [I-].[I-].[I-].CN(C=1C=CC2=NC3=CC=CC=C3[S+]=C2C1)C.CN(C)C=1C=CC2=NC3=CC=CC=C3[S+]=C2C1.CN(C)C=1C=CC2=NC3=CC=CC=C3[S+]=C2C1 | InChI=1S/3C14H13N2S.3HI/c3*1-16(2)10-7-8-12-14(9-10)17-13-6-4-3-5-11(13)15-12;;;/h3*3-9H,1-2H3;3*1H/q3*+1;;;/p-3
